VD d 0 1
VCLK clk 0 PULSE(0 1 1u 1n 1n 100n 10u)
VCLR clr 0 PULSE(0 1 3u 1n 1n 100n 10u)
A1 d 0 clk 0 clr qb q 0 DFLOP
.save V(clk) V(clr) V(q) V(qb)
.meas tran Q_AFTER_PRE FIND V(q) AT 2u
.meas tran Q_AFTER_CLR FIND V(q) AT 4u
.meas tran QB_AFTER_PRE FIND V(qb) AT 2u
.meas tran QB_AFTER_CLR FIND V(qb) AT 4u
.tran 0 5u 0 1n
.end
